US05708018
Propyl-(6-pyrrol-1-yl-indan-2-yl)-amine.
A mixture of benzyl-propyl-(6-pyrrol-1-yl-indan-2-yl)-amine (540 mg, 1.64 mmol), ammonium formate (0.8 g, 12.6 mmol) and 10% Pd/C (0.3 g) in 99% ethanol (50 mL) was stirred for at ambient temperature for 1 h. The mixture was filtered on a Celite pad and the solution concentrated in vacuo. The residue was redissolved in 10% sodium carbonate/diethyl ether. After 2 additional ether extractions of the aqueous phase, the combined ethereal phases were dried (magnesium sulfate) filtered and evaporated to yield 320 mg of a residue containing both the pyrrolo and the pyrrolidino derivative. The two compounds were separated on a silica column using methanol as eluant, yielding 230 mg (58%) of the pyrrolo derivative and 40 mg (10%) of the pyrrolidino derivative.: 1H NMR (300 MHz, CDCl3) δ 0.93 (t, 3H), 1.52 (m, 2H), 2.61 (t, 2H), 2.77 (m, 2H), 3.18 (m, 2H), 3.67 (m, 1H), 6.31 (m, 2H), 7.03 (m, 2H), 7.1-7.3 (m, 3H); MS m/e 240 (M+, 72), 211 (100), 182 (72), 171 (65), 115 (25).

reactant | benzyl-propyl-(6-pyrrol-1-yl-indan-2-yl)-amine | 1.64 mmol, 540 mg | C(C1=CC=CC=C1)N(C1CC2=CC(=CC=C2C1)N1C=CC=C1)CCC | C23H26N2
reactant | ammonium formate | 12.6 mmol, 0.8 g | C(=O)[O-].[NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | Propyl-(6-pyrrol-1-yl-indan-2-yl)-amine | 320 mg | C(CC)NC1CC2=CC(=CC=C2C1)N1C=CC=C1 | C16H20N2
